* AB763 (Blackface Super Reverb-style) — DC operating-point netlist
* Circuit Codex — CC-BY-SA 4.0. Independently drawn from the published
* "SUPER-REVERB-AMP AB763" drawing's component values (see meta.yaml); no
* drawing reproduced. The drawing labels three preamp bottles 7025 — an alias
* for the 12AX7 (reference/tubes/12ax7.yaml also_known_as) — the tremolo
* oscillator plain 12AX7, and the reverb driver and phase inverter 12AT7. The
* output pair is lettered 6L6GC and uses the same clean-room model
* amps/ab763-twin's quartet does.
*
* SHARED CATHODE NETWORKS. The drawing carries boxed letters wherever a lead
* leaves one part of the sheet and lands on another. Two of them, [A] and [E],
* are cathode connections, and each ties TWO triodes to ONE 820 Ohm / 25 uF
* network that the sheet draws once:
*   [A] = node KA — the Normal channel's 2nd stage and the Vibrato channel's
*         2nd stage. The network is drawn at the Vibrato stage.
*   [E] = node KE — the mix driver and the reverb-recovery amp. The network is
*         drawn at the reverb-recovery stage.
* Each 820 Ohm therefore carries two triodes' current, which is what the
* printed +2.1 V and +2.0 V at those pins are read across.
*
* DC conventions. One printed rail is DRIVEN at its charted value; the two
* rails below it are DERIVED through the drawing's own printed droppers, so
* their simulated values are a check on the chart rather than an input to it
* (same choice amps/ab763-twin makes for its BC/BD pair):
*   BP1 = +460 V — 6L6GC plates, through the output transformer (TR3, 125A9A)
*                  primary, DCR omitted, so plate node == OT centre tap (the
*                  chart's own +465 V is 5 V above this — merged here exactly
*                  as amps/ab763 merges its own +415/+420 pair). Also feeds the
*                  screens (470 Ohm-1W stoppers) and the reverb driver (through
*                  the reverb transformer TR4, 125A20B, primary DCR).
*   BP1 -> 1k-1W  -> BC (printed +450 V, node [C]) — phase-inverter plate supply.
*   BC  -> 4.7k-1W-> BD (printed +410 V, node [D]) — preamp plate supply (every
*                  100k-loaded preamp triode below).
*
* The negative-bias supply (a dedicated PT tap, a silicon rectifier, a 25 uF/
* 50 V filter can, and a 10k-L pot whose track runs from the filter node to a
* 27k leg to ground and whose wiper is the -52 V line) is replaced by an ideal
* -52 V source, exactly as its AC/ripple-filtering role warrants — the wiper
* sets the level the chart prints, and no DC flows into the grid leaks, so
* nothing the DC solve needs depends on that divider. Likewise the reservoir (two 70 uF/350 V caps with 220k-1W balancing
* bleeders off the standby switch): BP1 is driven at the value they produce.
*
* DC-open caps are MODELLED where BOTH leads land on a named DC node (the PI ->
* output-grid coupling caps and every cathode-bypass can) so an eventual layout
* is placement-checked; open at DC they move no operating point. Caps into the
* abstracted volume / tone / reverb-mix / tremolo networks stay omitted.
*
* EXCLUDED — the tremolo (vibrato) tube V5 (12AX7), BOTH halves: V5A is a
* running phase-shift oscillator and V5B drives the optocoupler's neon lamp, so
* neither has a static DC operating point (see notes.md). Both tap BP1 — a
* DRIVEN node — not a derived preamp rail, so leaving them out shifts no gated
* node's simulated value (the same structural point amps/ab763-twin's own
* tremolo exclusion makes, and unlike amps/ab763's tremolo, which shares its
* derived input-stage rail and so DOES move it).
.include models/12ax7.inc
.include models/12at7.inc
.include models/6l6gc.inc

VBP1 BP1 0 DC 460
VBIAS NBIAS 0 DC -52

* supply droppers (BOM RD1, RD2) — the two lower rails are solved, not driven
RD1 BP1 BC 1k
RD2 BC BD 4.7k

* --- Normal channel input V1a (12AX7): 100k plate, 1.5k cathode (25uF), grid
*     returned to ground through the input jacks' 1M leak. Plate rail BD.
RLN1 BD PN1 100k
XV1A PN1 GN1 KN1 12AX7
RGN1 GN1 0 1meg
RKN1 KN1 0 1500
CKN1 KN1 0 25u

* --- Normal channel 2nd stage V1b (12AX7): 100k plate, grid returns to ground
*     through the normal volume pot (~0 V DC). Plate rail BD. Its cathode pin
*     carries the drawing's boxed connection [A] and has NO resistor of its
*     own: it lands on node KA, the 820 Ohm / 25 uF network drawn once at the
*     Vibrato 2nd stage below.
RLN2 BD PN2 100k
XV1B PN2 GN2 KA 12AX7
RGN2 GN2 0 1meg

* --- Vibrato channel input V2a (12AX7): identical topology, plate rail BD.
RLV1 BD PV1 100k
XV2A PV1 GV1 KV1 12AX7
RGV1 GV1 0 1meg
RKV1 KV1 0 1500
CKV1 KV1 0 25u

* --- Vibrato channel 2nd stage V2b (12AX7): 100k plate, grid returns through
*     the vibrato volume pot (~0 V DC). Plate rail BD. Cathode on node KA.
RLV2 BD PV2 100k
XV2B PV2 GV2 KA 12AX7
RGV2 GV2 0 1meg

* --- Cathode network [A]: ONE 820 Ohm and ONE 25 uF can, carrying BOTH second
*     stages' current. Drawn at the Vibrato stage; the Normal stage's cathode
*     returns to it through the boxed [A] connection.
RKA KA 0 820
CKA KA 0 25u

* --- Mix driver V3a (12AX7): 100k plate, plate rail BD. Its grid returns to
*     ground through the drawn 220k leak (RMR2). The 3.3M (RGD1, 10 pF across
*     it) sits IN SERIES ahead of the grid and reaches only the dry node, which
*     the 0.02 uF coupler and the 500 pF reverb send block at DC, so it carries
*     no DC and is left out. So is the 470k reverb return (RMR): it runs to the
*     Reverb pot's wiper, at 0 V, in parallel with the leak, and moves nothing.
*     The tremolo works on this stage's OUTPUT (the Intensity control hangs
*     between its 0.1 uF coupler and its 220k mixing resistor), not on its
*     grid. Cathode on node KE (boxed [E]) — no resistor of its own.
RLD1 BD PD1 100k
XV3A PD1 GD1 KE 12AX7
RMR2 GD1 0 220k

* --- Reverb-recovery amp V3b (12AX7): 100k plate, grid from the reverb-tank
*     output through a 220k leak (~0 V DC). Plate rail BD. Cathode on node KE.
RLR1 BD PR1 100k
XV3B PR1 GR1 KE 12AX7
RGRV GR1 0 220k

* --- Cathode network [E]: ONE 820 Ohm and ONE 25 uF can, carrying BOTH the mix
*     driver's and the reverb recovery's current. Drawn at the recovery stage;
*     the mix driver's cathode returns to it through the boxed [E] connection.
RKE KE 0 820
CKE KE 0 25u

* --- Reverb driver V4 (12AT7, BOTH sections in parallel): shared 2.2k cathode
*     (25uF), grids tied through a 1M leak, plates tied and fed from BP1
*     through the reverb transformer TR4 (125A20B) primary DCR (modeled 200
*     Ohm) — matching amps/ab763's own TR4 (same part number) modeling choice.
RTR4 BP1 PRD 200
XV4A PRD GRD KRD 12AT7
XV4B PRD GRD KRD 12AT7
RGRD GRD 0 1meg
RKRD KRD 0 2.2k
CKRD KRD 0 25u

* --- Phase inverter V6 (12AT7 long-tailed pair): 82k (hot) and 100k (cold)
*     5% plate loads from BC; cathodes joined at KPI, 470 Ohm to the tail
*     junction JPI, 22k tail from JPI to ground; both 1M grid leaks return to
*     JPI. The 820 Ohm/OT-secondary negative-feedback loop sits at ~0 V DC
*     (omitted, same treatment as amps/ab763's RNFB).
RLPA BC PPIA 82k
XV6A PPIA GPIA KPI 12AT7
RGPA GPIA JPI 1meg
RLPB BC PPIB 100k
XV6B PPIB GPIB KPI 12AT7
RGPB GPIB JPI 1meg
RTAIL KPI JPI 470
RT2 JPI 0 22k

* --- Output pair 6L6GC (fixed bias): grids to -52 V through 220k-5% leaks at
*     node GB1/GB2, each then through its OWN 1500 Ohm grid stopper (a detail
*     this drawing carries that amps/ab763's 6V6GT stage does not) into the
*     tube; screens off BP1 through 470 Ohm-1W stoppers; cathodes grounded;
*     plates at BP1 (OT primary DCR omitted). Two distinct bottles V7 / V8.
RGL1 NBIAS GB1 220k
RST1 GB1 G61 1500
XV7 BP1 S61 G61 0 6L6GC
RS1 BP1 S61 470
RGL2 NBIAS GB2 220k
RST2 GB2 G62 1500
XV8 BP1 S62 G62 0 6L6GC
RS2 BP1 S62 470

* PI-plate -> 6L6-grid coupling caps (0.1u, DC-open), landing on the grid-leak
* node ahead of the stopper. Modeled so an eventual layout's inter-stage
* routing and push-pull phase are machine-checked; each 6L6 grid still sits
* at -52 V through its 220k leak, so the op point is unmoved.
C1 PPIA GB1 0.1u
C2 PPIB GB2 0.1u
